US04469868
1,3-Dimethyl-4-nitro-5-pyrazolecarboxamide (28 g, 0.15 mol) is added to a solution of 38 g (0.2 mol) of triethyloxonium fluoroborate in 250 ml of methylenedichloride. The mixture is stirred at 20° C. for six hours and evaporated in vacuo. The residue is dissolved in 200 ml of absolute ethanol and 18 g (0.3 mol) of ethylenediamine is added. The yellow solution is stirred overnight at 20° C. and the solvent is evaporated in vacuo. The residue is stirred in 300 ml of 2N hydrochloric acid and filtered from 11.5 g (41%) of recovered starting amide. The filtrate is made basic with sodium carbonate and extracted with methylenedichloride. Evaporation of the methylenedichloride gives 9 g of 2-(1,3-dimethyl-4-nitro-5-pyrazolyl)imidazoline, mp 143°-145° C. from ethyl acetate-pet ether.

reactant | 1,3-Dimethyl-4-nitro-5-pyrazolecarboxamide | 0.15 mol, 28 g | CN1N=C(C(=C1C(=O)N)[N+](=O)[O-])C | C6H8N4O3
reactant | triethyloxonium fluoroborate | 0.2 mol, 38 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | ethylenediamine | 0.3 mol, 18 g | C(CN)N | C2H8N2
solvent | methylenedichloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 2-(1,3-dimethyl-4-nitro-5-pyrazolyl)imidazoline | 9 g | CN1N=C(C(=C1C=1NCCN1)[N+](=O)[O-])C | C8H11N5O2
